US04254267
(C) (±)-1-[3-(Acetylthio)-1-oxopropyl]-3-(2-furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid
(±)-3-(2-Furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid (4.5 g) is dissolved in 200 cc of water containing 1.38 g of sodium carbonate (pH 9.4) at 10° C. 3-(Acetylthio)propionyl chloride (4.15 g) and 20% sodium carbonate solution are added simultaneously maintaining the pH between 8.5 and 9.4 and the temperature at 10° C. The final reaction mixture (pH 9.7) is stirred at room temperature for 2 hours and extracted with ethyl acetate (discarded) and the aqueous layer made strongly acid with 20% HCl. A precipitate forms which is extracted into ethyl acetate immediately. The solvent is dried and removed to yield 4.5 g of crystalline material which cannot be recrystallized.

reactant | (±)-3-(2-Furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 4.5 g | O1C(=CC=C1)C1=NNC(C1)C(=O)O | C8H8N2O3
reactant | 3-(Acetylthio)propionyl chloride | 4.15 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
solvent | water | 200 cc, 1.38 g | O | H2O
solvent | sodium carbonate | pH 9.4 | C([O-])([O-])=O.[Na+].[Na+]
product | (±)-1-[3-(Acetylthio)-1-oxopropyl]-3-(2-furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 4.5 g | C(C)(=O)SCCC(=O)N1N=C(CC1C(=O)O)C=1OC=CC1 | C13H14N2O5S
